US06864265B2
To a cold (0° C.) stirred solution of 2-bromo-5,6,7,8-tetrahydroquinolin-8-ol (500 mg, 2.36 mmol) in dry CH2Cl2 (10 mL) was added triethylamine (0.72 mL, 5.2 mmol) followed by methanesulfonyl chloride (0.35 mL, 3.6 mmol). The resulting mixture was stirred at 0° C. for 1 h, then warmed slowly to room temperature and stirred a further 1 h. Saturated aqueous NaHCO3 (30 mL) was added and the phases were separated. The aqueous layer was extracted with CH2Cl2 (3×30 mL) and the combined organic extracts were dried (MgSO4) and concentrated to give 605 mg (88%) of 2-bromo-5,6,7,8-tetrahydroquinolin-8-yl methanesulfonate as an orange solid.

reactant | 2-bromo-5,6,7,8-tetrahydroquinolin-8-ol | 2.36 mmol, 500 mg | BrC1=NC=2C(CCCC2C=C1)O | C9H10BrNO
reactant | triethylamine | 5.2 mmol, 0.72 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.6 mmol, 0.35 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-5,6,7,8-tetrahydroquinolin-8-yl methanesulfonate | 605 mg, 88% | CS(=O)(=O)OC1CCCC=2C=CC(=NC12)Br | C10H12BrNO3S
